US04851526
4-[[2-(3,4,5-Trimethoxyphenyl)ethyl](methyl)amino]hexan-3-ol
Combine 22.5 g (0.1 mol) of N-methyl-3,4,5-trimethoxybenzeneethanamine and 10 g (0.1 mol) of 2,3-diethyloxirane in 150 mL of 90% aqueous methanol. Heat the reaction at 50° C. and follow the progress of the reaction by thin-layer chromatography. At the completion of the reaction remove the solvent in vacuo and chromatograph the residue on silica gel to obtain the title compound.

reactant | N-methyl-3,4,5-trimethoxybenzeneethanamine | 0.1 mol, 22.5 g | CNCCC1=CC(=C(C(=C1)OC)OC)OC | C12H19NO3
reactant | 2,3-diethyloxirane | 0.1 mol, 10 g | C(C)C1OC1CC | C6H12O
reactant | methanol | 150 mL | CO | CH4O
product | 4-[[2-(3,4,5-Trimethoxyphenyl)ethyl](methyl)amino]hexan-3-ol | COC=1C=C(C=C(C1OC)OC)CCN(C(C(CC)O)CC)C | C18H31NO4
